US08440679B2
3-[2-(4-Chloro-phenylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl]-4-methyl-N-(3-trifluoromethylphenyl)benzamide. [28]
To a solution of 3-(3-Dimethylamino-methylene-4-oxo-piperidin-1-yl)-4-methyl-N-(3-trifluoromethyl-phenyl)benzamide (17.9 gm, 41.7 mmol) in Ethanol (250 ml) were added N-(4-Chloro-phenyl)-guanidine (28.32 gm, 167 mmol) and sodium acetate (27.32 gm, 334 mmol) and solution was heated under reflux for 12 hours. After cooling to room temperature, the reaction mixture was diluted with water, extracted with ethyl acetate. The organic layer was washed with brine and dried [sodium sulfate] and evaporated. The crude product obtained was purified by silica gel chromatography using 5-10% methanol/chloroform as eluent to give pure desired product i.e., 3-[2-(4-Chloro-phenylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl]-4-methyl-N-(3-trifluoromethyl phenyl)benzamide [28] as off white solid. [yield: 1.83 gm, 8.2%]

reactant | 3-(3-Dimethylamino-methylene-4-oxo-piperidin-1-yl)-4-methyl-N-(3-trifluoromethyl-phenyl)benzamide | 41.7 mmol, 17.9 gm | CN(C1C(N(CCC1=O)C=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC1C)=C)C | C23H24F3N3O2
reactant | N-(4-Chloro-phenyl)-guanidine | 167 mmol, 28.32 gm | ClC1=CC=C(C=C1)NC(=N)N | C7H8ClN3
reactant | sodium acetate | 334 mmol, 27.32 gm | C(C)(=O)[O-].[Na+]
solvent | Ethanol | 250 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-[2-(4-Chloro-phenylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl]-4-methyl-N-(3-trifluoromethylphenyl)benzamide | ClC1=CC=C(C=C1)NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)NC1=CC(=CC=C1)C(F)(F)F)C=CC2C | C28H23ClF3N5O
